US08614220B2
Step 1. 5-(1-Methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-trifluoromethoxy-phenylamine
5-Bromo-2-trifluoromethoxy-phenylamine (0.43 g, 1.68 mmol), cesium carbonate (1.65 g, 5.06 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(ii) dichloride, complex with dichloromethane (1:1) (0.08 g, 0.1 mmol) in dry DMF (20 mL) were charged in a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. A solution of 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine (0.45 g, 2.01 mmol) in dry DMF (10 mL) were added to the suspension and the reaction mixture warmed at 80° C. for 3 hours. The reaction mixture was then allowed to cool to room temperature, diluted with water (100 mL) and extracted with DCM (2×50 mL) and the combined organic phases were extracted with 1N HCl solution (50 mL). The aqueous layer was basified by addition of sodium bicarbonate and extracted with EtOAc (2×50 mL). The combined organic phases were dried over anhydrous Na2SO4, the solvent removed under reduced pressure and the crude solid purified by flash chromatography on silica gel (eluant: DCM/MeOH 90/10) to afford the intermediate as a light brown solid (0.3 g, 65% yield)

reactant | 5-Bromo-2-trifluoromethoxy-phenylamine | 1.68 mmol, 0.43 g | BrC=1C=CC(=C(C1)N)OC(F)(F)F | C7H5BrF3NO
reactant | cesium carbonate | 5.06 mmol, 1.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | 0.1 mmol, 0.08 g | ClCCl | CH2Cl2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine | 2.01 mmol, 0.45 g | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(ii) dichloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(1-Methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-trifluoromethoxy-phenylamine | 0.3 g, 65% yield | CN1CCC(=CC1)C=1C=CC(=C(C1)N)OC(F)(F)F | C13H15F3N2O
